US09145435B2
Charge 1780 g of THF and 86.6 g of diisopropylanmine to R1. Cool the mixture in R1 to −40° C.˜−60° C. Add drop-wise 210.5 g of n-BuLi (1.6 eq) into R1 and stir the mixture for 0.5-1 hour. Charge 890 g of THF then 100.0 g of tert-butyl 4-cyanopiperidine-1-carboxylate into R2. Add the solution of tert-butyl 4-cyanopiperidine-1-carboxylate in R2 drop-wise to R1, controling the temperature at −40° C.˜−60° C. Stir the mixture in R1 for 1˜2 hour. Charge 890 g of THF and 130.5 g of 1-bromo-3-chloro-propane into R2. Add the solution of 1-bromo-3-chloro-propane in R2 drop-wise to R1, control the temperature at −40˜−60° C. Stir the mixture in R1 for 3 hours at −40˜−60° C. then slowly warm the mixture to 20˜25° C. and stir for 13˜16 hours. Cool the mixture to 0˜5° C. Add drop-wise 525 g of NH4Cl (saturated aqueous solution) then 500 g of water into R1. Concentrate the mixture to total weight 1000˜1100 g below 40° C. then add 380 g of MTBE. Stir the mixture at 10˜20° C. for 20-40 minutes then allow to stand for 30˜60 mins Separate the aqueous layer and wash the organic layer with 2×500 g of H2O. Concentrate the mixture to 300 g total weight below 50° C. Add 136 g of n-heptane then concentrate the mixture to 300 g total weight below 50° C. Cool the mixture 0-5° C., then add drop-wise 340 g of n-heptane. Stir the mixture in for 5˜10 hours, then filter the suspension. Rinse the flask with 68.0 g of n-heptane, then wash the cake to provide of tert-butyl 4-(3-chloropropyl)-4-cyano-piperidine-1-carboxylate (118 g, 87.2% Assay, 75.4% yield): mass spectrum (m/z): 231 (M+H-tBu). Transfer the cake to a flask and add 610.0 g of Toluene. Concentrate mixture to 500 g total weight below 50° C. The product is stored as a toluene solution until required.

reactant | n-BuLi | 210.5 g, 1.6 eq | [Li]CCCC
reactant | tert-butyl 4-cyanopiperidine-1-carboxylate | 100.0 g | C(#N)C1CCN(CC1)C(=O)OC(C)(C)C | C11H18N2O2
reactant | 1-bromo-3-chloro-propane | 130.5 g | BrCCCCl | C3H6BrCl
reactant | NH4Cl | 525 g | [NH4+].[Cl-]
solvent | water | 500 g | O | H2O
solvent | THF | 890 g | C1CCOC1 | C4H8O
solvent | THF | 890 g | C1CCOC1 | C4H8O
solvent | THF | 1780 g | C1CCOC1 | C4H8O
product | tert-butyl 4-(3-chloropropyl)-4-cyano-piperidine-1-carboxylate | 118 g, 75.4% yield | ClCCCC1(CCN(CC1)C(=O)OC(C)(C)C)C#N | C14H23ClN2O2
